US05631373
Preparation of 1,4-Dihydrobenzo[g]quinoxaline-2,3-dione
A mixture of 603 mg (3.81 mmol) of 2,3-naphthalenediamine and 382 mg (4.24 mmol) of oxalic acid in 5 mL of 2N HCl was refluxed for 3 h and cooled to room temperature. The mixture was filtered, washed with water, and dried to leave a brown solid 803 mg (99%); mp>250° C.; 1H NMR (DMSO-d6), 7.382 (dd, 2, J=3.16, 6.17), 7.525 (s, 2), 7.815 (dd, 2, J=3.22, 6.18), 12.088 (s, 2).

reactant | 2,3-naphthalenediamine | 3.81 mmol, 603 mg | C1=C(C(=CC2=CC=CC=C12)N)N | C10H10N2
reactant | oxalic acid | 4.24 mmol, 382 mg | C(C(=O)O)(=O)O | C2H2O4
solvent | HCl | 2N, 5 mL | Cl | ClH
product | 1,4-Dihydrobenzo[g]quinoxaline-2,3-dione | 803 mg, 99% | N1C(C(NC=2C=C3C(=CC12)C=CC=C3)=O)=O | C12H8N2O2
